US04125732
2-(p-Fluorophenoxy)ethanol
To 200 ml of 1 Molar diborane in tetrahydrofuran (chilled to 5°-10° C.) is added dropwise 17.0 g of 2-(p-fluorophenoxy)acetic acid in 100 ml of tetrahydrofuran. The mixture is stirred overnight and poured into 100 g of ice and 250 ml of chloroform. The organic layer is separated and the aqueous layer extracted with chloroform. The organic layer and extracts are combined, dried (MgSO4) and the solvent removed under vacuum. The residual pale yellow oil is distilled to give the product (14.8 g) as a colorless oil.

reactant | diborane | 1 Molar, 200 ml | B#B | B2
reactant | 2-(p-fluorophenoxy)acetic acid | 17.0 g | FC1=CC=C(OCC(=O)O)C=C1 | C8H7FO3
reactant | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(p-Fluorophenoxy)ethanol | 14.8 g | FC1=CC=C(OCCO)C=C1 | C8H9FO2
